US06919322B2
A mixture of 1-(3-bromophenylcarbamoyl)-3-carboxy-5-(diethyl 2-phosphonofuran-5-yl)benzene (1 mmol), EDCI (2 mmol), DMAP (0.1 mmol) and ethanol (1.5 mmol) in 70 mL of CH2Cl2 were stirred at rt for 14 h. After evaporation the mixture was redissolved in MeOH and slurried with 5 g of DOWEX 50WX8-400 free acid and 5 g of DOWEX 1X8-400 bicarbonate resin for 4 h and then filtered. The filtrate was evaporated to provide 1-(3-bromophenylcarbamoyl)-3-carboethoxy-5-(diethyl 2-phosphonofuran-5-yl)benzene.

reactant | 1-(3-bromophenylcarbamoyl)-3-carboxy-5-(diethyl 2-phosphonofuran-5-yl)benzene | 1 mmol | BrC=1C=C(C=CC1)NC(=O)C1=CC(=CC(=C1)C1=C(C(=C(O1)P(=O)(O)O)CC)CC)C(=O)O | C22H21BrNO7P
reactant | EDCI | 2 mmol | CCN=C=NCCCN(C)C | C8H17N3
reactant | ethanol | 1.5 mmol | C(C)O | C2H6O
catalyst | DMAP | 0.1 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-bromophenylcarbamoyl)-3-carboethoxy-5-(diethyl 2-phosphonofuran-5-yl)benzene | BrC=1C=C(C=CC1)NC(=O)C1=CC(=CC(=C1)C1=C(C(=C(O1)P(=O)(O)O)CC)CC)C(=O)OCC | C24H25BrNO7P
